US04042697
a. 2-Benzyl-6-methoxyisoquinolinium bromide
6-Methoxyisoquinoline (1.6 g) and benzyl bromide (2 ml) in acetone (75 ml) were heated under reflux for 1 hour. The mixture was diluted with ether and cooled to 0°. The solid was filtered off and recrystallised from methanol/ether, and had m.p. 155°-158°.

reactant | 6-Methoxyisoquinoline | 1.6 g | COC=1C=C2C=CN=CC2=CC1 | C10H9NO
reactant | benzyl bromide | 2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 75 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | 2-Benzyl-6-methoxyisoquinolinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1=CC2=CC=C(C=C2C=C1)OC | InChI=1S/C17H16NO.BrH/c1-19-17-8-7-16-13-18(10-9-15(16)11-17)12-14-5-3-2-4-6-14;/h2-11,13H,12H2,1H3;1H/q+1;/p-1
